*****************************************************************
* NXP BUK7Y12-40E
*
* Polarity N-Channel
* Ratings 40V/1.200000E-002OHMS/52.3959579893599A
*
* Date Created Mon Feb 04 07:41:06 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y12-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0078267103659258 TC=0.00914599825857564,-3.82850624397252E-05
RBD 9 4 0.00208737256608704 TC=0.00914599825857564,-3.82850624397252E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 6.6e-10
RG 1 2 1.69663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	408.957
+ -10	408.585
+ -8	408.03
+ -6	406.766
+ -5	403.489
+ -4	636.253
+ -3	646.549
+ -2	551.616
+ -1	456.333
+ -0.5	405.431
+ -0.2	373.121
+ -0.1	349.93
+ 0	346.822
+ 0.1	344.533
+ 0.2	294.573
+ 0.5	241.538
+ 1	205.065
+ 2	177.788
+ 3	163.996
+ 4	155.094
+ 5	148.612
+ 6	143.591
+ 8	136.398
+ 10	131.504
+ 12	127.864
+ 15	123.679
+ 20	118.355
+ 25	114.2
+ 30	110.946



.MODEL MINT NMOS(Vto=4.6 Kp=90 Nfs=1200000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=9.40053777489627e-14
+ N=1 M=0.59 VJ=0.5 Fc=0.5 Cjo=5.63158e-10 Tt=1.52934e-08)

.ENDS

